US06825191B2
Synthesis of 1-(1,1′-biphenyl-4-ylmethyl)-4-(4-chlorobenzoyl)-1,3,4,5-tetrahydrobenzo[e][1,4]diazepin-2-on
300 mg (1.0 mmol) of 4-(4-chlorobenzoyl)-1,3,4,5-tetrahydrobenzo[e][1,4]diazepin-2-on was dissolved in 10 ml of DMF. 50 mg (1.25 mmol) of sodium hydride was added to the obtained solution, and they were stirred at room temperature for 30 minutes. 300 mg (1.0 mmol) of 4-iodobenzyl bromide was added to the obtained mixture, and they were stirred at room temperature overnight. After the treatment with ethyl acetate as the extracting solvent by an ordinary method, the solvent was evaporated, and the obtained crude product was washed with hexane. 30 mg (0.058 mmol) of the obtained product was mixed with 7 mg (0.058 mmol) of phenyl boronic acid, 5 mg of [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium, 3 mg of 1,1′-bisdiphenylphosphinoferrocene, 265 mg (2.5 mmol) of sodium carbonate, 1 ml of water and 3 ml of toluene, and the obtained mixture was stirred at 80° C. overnight. After the treatment with ethyl acetate as the extracting solvent by an ordinary method, the solvent was evaporated, and the obtained crude product was treated in the same manner as in Step 3 in Example 1 to obtain the title compound.

reactant | 4-(4-chlorobenzoyl)-1,3,4,5-tetrahydrobenzo[e][1,4]diazepin-2-on | 1.0 mmol, 300 mg | ClC1=CC=C(C(=O)N2CC(NC3=C(C2)C=CC=C3)=O)C=C1 | C16H13ClN2O2
reactant | sodium hydride | 1.25 mmol, 50 mg | [H-].[Na+]
reactant | 4-iodobenzyl bromide | 1.0 mmol, 300 mg | IC1=CC=C(CBr)C=C1 | C7H6BrI
reactant | phenyl boronic acid | 0.058 mmol, 7 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | sodium carbonate | 2.5 mmol, 265 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium | 5 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
catalyst | 1,1′-bisdiphenylphosphinoferrocene | 3 mg | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
solvent | toluene | 3 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 1 ml | O | H2O
product | 1-(1,1′-biphenyl-4-ylmethyl)-4-(4-chlorobenzoyl)-1,3,4,5-tetrahydrobenzo[e][1,4]diazepin-2-on | C1(=CC=C(C=C1)CN1C(CN(CC2=C1C=CC=C2)C(C2=CC=C(C=C2)Cl)=O)=O)C2=CC=CC=C2 | C29H23ClN2O2
